US07026478B2
A solution of phenylmagnesium bromide (1M in THF, 5.6 mL, 5.6 mmol) is added to a solution of 3-chloro-2,5-dimethylpyrazine (346 mg, 2.42 mmol) and Fe(acac)3 (43 mg, 0.12 mmol) in THF (10 mL) at −30° C. After stirring for 30 min at that temperature, the reaction is quenched with brine, the aqueous layer is extracted with Et2O, the combined organic phases are dried over Na2SO4 and evaporated, and the residue is purified by flash chromatography (hexane/ethyl acetate, 10:1). After eluting a first fraction containing biphenyl (212 mg), one obtains 2,5-dimethyl-3-phenylpyrazine as a pale yellow syrup (287 mg, 64%). 1H NMR (300 MHz, CD2Cl2) δ 8.31 (s, 1H), 7.55–7.59 (m, 2H), 7.43–7.51 (m, 3H), 2.55 (s, 3H), 2.54 (s, 3H). 13C NMR (75 MHz, CD2Cl2) δ 152.7, 150.6, 148.4, 142.1, 139.5, 129.3, 128.7, 128.6, 22.7, 21.2.

reactant | phenylmagnesium bromide | 5.6 mmol, 1M, 5.6 mL | C1(=CC=CC=C1)[Mg]Br
reactant | 3-chloro-2,5-dimethylpyrazine | 2.42 mmol, 346 mg | ClC=1C(=NC=C(N1)C)C | C6H7ClN2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2,5-dimethyl-3-phenylpyrazine | 287 mg, 64% | CC1=NC=C(N=C1C1=CC=CC=C1)C | C12H12N2
